US05488149
29.2 g of the diethylphosphonoacetic acid thus obtained was dissolved in 350 ml of methylene chloride, and 17.8 g of allyl alcohol, 1.92 g of 4-dimethylaminopyridine and 29.0 g of 1-ethyl-3-(3-methylaminopropyl)carbodiimide hydrochloride were added thereto with stirring under cooling with ice. The mixture was stirred at room temperature overnight. The reaction solution was evaporated under reduced pressure. The residue was dissolved in ethyl acetate, then sequentially washed with 1N hydrochloric acid, water, a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate. The drying agent was separated by filtration, and then the solvent was distilled off under reduced pressure to obtain 28.9 g of allyl diethylphosphonoacetate.

reactant | diethylphosphonoacetic acid | 29.2 g | C(C)OP(=O)(OCC)CC(=O)O | C6H13O5P
reactant | allyl alcohol | 17.8 g | C(C=C)O | C3H6O
reactant | 1-ethyl-3-(3-methylaminopropyl)carbodiimide hydrochloride | 29.0 g | Cl.C(C)N=C=NCCCNC
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.92 g | CN(C1=CC=NC=C1)C | C7H10N2
product | allyl diethylphosphonoacetate | 28.9 g | C(C)OP(=O)(OCC)CC(=O)OCC=C | C9H17O5P
